US07897627B2
a) Step 1: ((R)-1-Benzyl-pyrrolidin-3-yl)-(6-chloro-benzooxazol-2-yl)-methyl-amine
A mixture of 0.5 g (2.6 mmol) 2,6-dichloro benzoxazole, 0.68 g (3.58 mmol) ((R)-1-benzyl-pyrrolidin-3-yl)-methyl-amine and 0.4 g (4 mmol) NEt3 in 12 mL DCM was stirred over night at room temperature. DCM was added and the mixture was washed with NaHCO3 aq., dried with MgSO4 and evaporated to dryness to yield the title compound as yellow oil which was used in the consecutive step without further purification. (MH+) 342.1

reactant | 2,6-dichloro benzoxazole | 2.6 mmol, 0.5 g | ClC=1OC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NO
reactant | ((R)-1-benzyl-pyrrolidin-3-yl)-methyl-amine | 3.58 mmol, 0.68 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC | C12H18N2
reactant | NEt3 | 4 mmol, 0.4 g | CCN(CC)CC | C6H15N
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | ((R)-1-Benzyl-pyrrolidin-3-yl)-(6-chloro-benzooxazol-2-yl)-methyl-amine | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C)C=1OC2=C(N1)C=CC(=C2)Cl | C19H20ClN3O
